US07495009B2
Stage 2: 1-(4-{[5-(butylamino)-3-(3-piperidin-1-ylpropyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino}phenyl)ethanone
N6-butyl-3-nitro-N2-(3-piperidin-1-ylpropyl)pyridine-2,6-diamine (500 mg) in solution in a mixture of ethyl acetate/ethanol 3:1 (10 ml), and 10% palladium on carbon (50 mg) are introduced into an autoclave. After stirring for 3 hours under a hydrogen atmosphere (3 bar) at a temperature of approximately 20° C., the mixture is filtered on celite in a flask containing a solution of 4-acetylphenyl-isothiocyanate (270 mg, 1 eq) in tetrahydrofuran (10 ml). N-cyclohexylcarbodiimide-N-methyl-polystyrene resin (acquired from Novabiochem; load 1.9 mmol/g; 2.63 g, 3 eq) is added to the filtrate thus obtained. The mixture is heated to reflux for 15 hours, cooled down to ambient temperature then filtered on frit and the filtrate is concentrated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 9:1) produces the expected compound (230 mg; 34% yield).

reactant | N6-butyl-3-nitro-N2-(3-piperidin-1-ylpropyl)pyridine-2,6-diamine | 500 mg | C(CCC)NC1=CC=C(C(=N1)NCCCN1CCCCC1)[N+](=O)[O-] | C17H29N5O2
reactant | 4-acetylphenyl-isothiocyanate | 270 mg, 1 eq | C(C)(=O)C1=CC=C(C=C1)N=C=S | C9H7NOS
solvent | ethyl acetate ethanol | 10 ml | C(C)(=O)OCC.C(C)O
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-{[5-(butylamino)-3-(3-piperidin-1-ylpropyl)-3H-imidazo[4,5-b]pyridin-2-yl]amino}phenyl)ethanone | 230 mg, 34% yield | C(CCC)NC1=CC=C2C(=N1)N(C(=N2)NC2=CC=C(C=C2)C(C)=O)CCCN2CCCCC2 | C26H36N6O
